US07888364B2
60 mg of 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to benzylamine via Procedure G. The crude product was purified on reverse phase HPLC to yield N4-benzyl-2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)terephthalamide. MS (Q1) 476 (M)+.

reactant | 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 60 mg | ClC=1C=C(C(=O)O)C=CC1C(NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)=O | C19H12Cl2N2O3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N4-benzyl-2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)terephthalamide | C(C1=CC=CC=C1)NC(C1=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)Cl)=O | C26H19Cl2N3O2
